US07417047B2
Preparation of 1-(3-bromophenyl)-2-[1-(2,2,2-trifluoroethyl)-1H-pyrazol-4-yl]ethane-1,2-dione
To a solution of 4-[(3-bromophenyl)ethynyl]-1-(2,2,2-trifluoroethyl)-1H-pyrazole (4.90 g, 14.9 mmol) in acetone (150 mL) is added a warm (˜40° C.) solution of NaHCO3 (0.75 g, 8.9 mmol) and MgSO4 (2.70 g, 22.4 mmol) in H2O (150 mL) followed by the addition of solid potassium permanganate (5.2 g, 32.8 mmol) in one portion. After stirring for 40 minutes at room temperature, the reaction mixture is extracted with a solution of Et2O/hexane (1/1) until no product left in aqueous layer. The combined organic extracts is dried (MgSO4) and concentrated to dryness to afford the title compound (4.4 g, 82%) as a solid. mp: 66-67° C. MS (−) ES: 359 (M−H)−.

reactant | 4-[(3-bromophenyl)ethynyl]-1-(2,2,2-trifluoroethyl)-1H-pyrazole | 14.9 mmol, 4.90 g | BrC=1C=C(C=CC1)C#CC=1C=NN(C1)CC(F)(F)F | C13H8BrF3N2
reactant | NaHCO3 | 8.9 mmol, 0.75 g | C(=O)(O)[O-].[Na+]
reactant | MgSO4 | 22.4 mmol, 2.70 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | potassium permanganate | 32.8 mmol, 5.2 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | H2O | 150 mL | O | H2O
solvent | acetone | 150 mL | CC(=O)C | C3H6O
product | 1-(3-bromophenyl)-2-[1-(2,2,2-trifluoroethyl)-1H-pyrazol-4-yl]ethane-1,2-dione | 4.4 g, 82% | BrC=1C=C(C=CC1)C(C(=O)C=1C=NN(C1)CC(F)(F)F)=O | C13H8BrF3N2O2
